US06555556B1
Ethyl 2-[N-[4-(1-t-Butoxycarbonylpiperidin-4-yloxy)phenyl]-N-[3-(3-cyanophenyl)-2-(E)-propenyl]amino]acetate
To a solution of 3-[3-[N-[4-(1-t-butoxycarbonylpiperidin-4-yloxy)phenyl]amino]-1-(E)-propenyl]benzonitrile (1.00 g) in N,N-dimethylformamide (20 ml) were added potassium carbonate (0.96 g) and ethyl bromoacetate (0.62 ml). The mixture was stirred at 70° C. for 9 hours. After addition of water, the reaction mixture was extracted with ethyl acetate. The extract was washed with brine. The organic layer was dried over anhydrous magnesium sulfate, filtered and the filtrate concentrated in vacuo. The residue was purified by chromatography on a silica gel column using hexane/ethyl acetate=2/1 as an eluant to give the desired compound (1.31 g, yield quantitative) as a yellow oil.

reactant | 3-[3-[N-[4-(1-t-butoxycarbonylpiperidin-4-yloxy)phenyl]amino]-1-(E)-propenyl]benzonitrile | 1.00 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)NC/C=C/C=1C=C(C#N)C=CC1 | C26H31N3O3
reactant | potassium carbonate | 0.96 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 0.62 ml | BrCC(=O)OCC | C4H7BrO2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | Ethyl 2-[N-[4-(1-t-Butoxycarbonylpiperidin-4-yloxy)phenyl]-N-[3-(3-cyanophenyl)-2-(E)-propenyl]amino]acetate | 1.31 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)N(C\C=C\C1=CC(=CC=C1)C#N)CC(=O)OCC | C30H37N3O5
